US04859684
A mixture of 2.3 parts of 5-(1H-imidazol-1-ylmethyl)-1H-benzimidazole-2-carboxylic acid and 80 parts of thionyl chloride was stirred for 3 hours at reflux temperature. The reaction mixture was evaporated to dry, yielding 4.3 parts of 3,9-bis(1H-imidazol-1-yl-methyl)-6H,13H-pyrazino[1,2-a:4,5-a']bisbenzimidazole6,13-dione which were poured into a solution of 3.8 parts of sodium methoxide in 40 parts of methanol. The whole was stirred for 1 hour at room temperature. The whole was neutralised with 10 parts of acetic acid and concentrated to dry. The concentrate was taken up in a sodium hydrogen carbonate solution 10% and the product was extracted with a mixture of dichloromethane and methanol (90:10 by volume). The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanone. The product was filtered off and dried, yielding 0.7 parts (26.9%) of methyl 5-(1H-imidazol-1-ylmethyl)-1H-benzimidazole-2-carboxylate; mp. 228° C. (compound 267).

reactant | 5-(1H-imidazol-1-ylmethyl)-1H-benzimidazole-2-carboxylic acid | N1(C=NC=C1)CC1=CC2=C(NC(=N2)C(=O)O)C=C1 | C12H10N4O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3,9-bis(1H-imidazol-1-yl-methyl)-6H,13H-pyrazino[1,2-a:4,5-a']bisbenzimidazole6,13-dione | N1(C=NC=C1)CC1=CC2=C(N3C(=N2)C(N2C(=NC4=C2C=C(C=C4)CN4C=NC=C4)C3=O)=O)C=C1 | C24H16N8O2
